US07365085B2
c. N-Methyl-3-hydroxybenzene sulfonamide
N-Methyl-3-aminobenzene sulfonamide (488 mg, 2.62 mmole) was dissolved in a mixture of 10 mL of H2O and 2 mL of conc. H2SO4, and was cooled to −5°. A solution of NaNO2 (207 mg, 3 mmole) in 2 mL of H2O was added dropwise at such a rate that the temperature doesn't exceed 0°. The reaction was stirred for 10 minutes, urea (100 mg) was added, and the reaction was stirred an additional 10 minutes. The cold solution of diazo compound was slowly added with stirring to a 0° solution of Cu(NO3)2 dihydrate (10.3 g, 43 mmole) and Cu2O (363 mg) in 100 mL of H2O. Stirring was continued for 30 minutes as the temperature was allowed to warm to 23°. The heterogeneous reaction was extracted with Et2O, and the extracts were extracted with 0.2N NaOH. The basic extracts were washed with Et2O, acidified, and extracted with CH2Cl2. The extracts were dried, and the solvent removed. The residue was chromatographed on a silica gel column, and elution with 50% EtOAc in hexane gave the titled product, 175 mg (36%). MS (ESI) 188 (MH+).

reactant | N-Methyl-3-aminobenzene sulfonamide | 2.62 mmole, 488 mg | CNS(=O)(=O)C1=CC(=CC=C1)N | C7H10N2O2S
reactant | NaNO2 | 3 mmole, 207 mg | N(=O)[O-].[Na+]
reactant | urea | 100 mg | NC(=O)N | CH4N2O
solvent | H2O | 10 mL | O | H2O
solvent | H2SO4 | 2 mL | OS(=O)(=O)O | H2O4S
solvent | H2O | 2 mL | O | H2O
solvent | H2O | 100 mL | O | H2O
product | N-Methyl-3-hydroxybenzene sulfonamide | CNS(=O)(=O)C1=CC(=CC=C1)O | C7H9NO3S
